US07432279B2
4-[(3-chloro-4-fluorophenyl)amino]-6-{[(1S)-1-phenylpropyl]amino}-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 51, 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile (0.15 g, 0.47 mmol) was reacted with (s)-(−)-1-phenylpropylamine (2.0 mL, 1.86 g, 13.8 mmol) in a sealed vial heated in a microwave reactor at 185° C. for 90 min. The crude product was purified by preparative HPLC and lyophilized to give a fluffy, yellow solid (82 mg, 40.4% yield): 1H NMR (400 MHz, MeOD) δ ppm 0.99 (t, J=7.45 Hz, 3 H) 1.78-2.01 (m, 2 H) 4.58 (t, J=7.20 Hz, 1 H) 6.72 (s, 1 H) 7.14-7.37 (m, 7 H) 7.40 (dd, J=2.53 Hz, 1 H) 8.22 (s, 1 H) 8.81 (s, 1 H); HRMS (ESI+) calcd for C24H19ClFN5 432.13858; found (MH+) 432.1391.

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | 0.47 mmol, 0.15 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
reactant | (s)-(−)-1-phenylpropylamine | 13.8 mmol, 2.0 mL, 1.86 g | C1(=CC=CC=C1)[C@H](CC)N | C9H13N
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-{[(1S)-1-phenylpropyl]amino}-1,7-naphthyridine-3-carbonitrile | 82 mg, 40.4% yield | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)N[C@@H](CC)C1=CC=CC=C1)C#N | C24H19ClFN5
